US08420816B2
Step D: (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid
(R)-tert-Butyl 2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate was stirred in DCM/TFA (50%, 10 mL) for 1 h, concentrated and dried in vacuo to afford the title compound as a beige solid (0.32 g, 59.1%). 1H NMR (400 MHz, DMSO-d6) δ 0.84 (d, J=6.30 Hz, 3 H) 1.04 (d, J=6.32 Hz, 3 H) 2.39 (dt, J=10.61, 6.57 Hz, 1 H) 4.83 (d, J=10.61 Hz, 1 H) 5.04 (d, J=9.60 Hz, 2 H) 7.98 (s, 1 H) 8.26 (s, 1 H) 12.39 (br. s., 1 H). [M+H] calc'd for C14H14FN3O3, 292; found, 292.5.

reactant | (R)-tert-Butyl 2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)OC(C)(C)C)C(C)C)=O)=CN2 | C18H22FN3O3
solvent | DCM TFA | 10 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.32 g, 59.1% | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
